US06110934
4-Benzyloxy-5-chloro-2-methoxybenzoic Acid
A solution of chlorine (5.1 g) in acetic acid (100 ml) was added dropwise to a solution of methyl 4-benzyloxy-2-methoxybenzoate (10 g) in acetic acid (40 ml) whilst maintaining the temperature at 20-25° C. The mixture was poured into ice-water and extracted with dichloromethane. The organic extract was dried over sodium sulfate and concentrated in vacuo. The resulting crude material was suspended in ethanol (500 ml) and treated with 10% aqueous sodium hydroxide (16 ml). The mixture was heated at reflux overnight and then concentrated in vacuo. The residue was treated with excess 5M HCl and extracted into dichloromethane. The extract was dried (sodium sulfate) and concentrated in vacuo to afford a white solid which was crystallised from ethanol to give the title compound (6.3 g).

reactant | chlorine | 5.1 g | ClCl | Cl2
reactant | methyl 4-benzyloxy-2-methoxybenzoate | 10 g | C(C1=CC=CC=C1)OC1=CC(=C(C(=O)OC)C=C1)OC | C16H16O4
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 4-Benzyloxy-5-chloro-2-methoxybenzoic Acid | 6.3 g | C(C1=CC=CC=C1)OC1=CC(=C(C(=O)O)C=C1Cl)OC | C15H13ClO4
